US08957074B2
Following general N—C coupling procedure 1, 7-(3-tert-Butyl-phenyl)-2-chloro-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (100 mg, 0.280 mmol, 1.0 eq) was combined with 3-(6-Amino-pyridine-3-carbonyl)-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (93 mg, 0.280 mmol, 1.0 eq) to give 3-{6-[7-(3-tert-Butyl-phenyl)-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino]-pyridine-3-carbonyl}-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (116 mg) in 60% yield. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.32 (s, 9H) 1.43 (s, 9H) 1.59 (br. s., 2H) 1.81 (br. s., 2H) 2.86 (br. s., 3H) 2.94 (br. s., 3H) 4.12 (br. s., 2H) 6.91 (s, 1H) 7.37-7.43 (m, 2H) 7.45-7.58 (m, 2H) 7.67 (dd, J=8.84, 2.27 Hz, 1H) 8.32 (dd, J=5.81, 2.78 Hz, 2H) 8.96 (s, 1H) 10.05 (s, 1H). MS m/z 653.7 (M+H)+.

reactant | 7-(3-tert-Butyl-phenyl)-2-chloro-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.280 mmol, 100 mg, 1.0 eq | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1=CC(=CC=C1)C(C)(C)C)C | C19H21ClN4O
reactant | 3-(6-Amino-pyridine-3-carbonyl)-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 0.280 mmol, 93 mg, 1.0 eq | C(C)(C)(C)OC(=O)N1C2CN(CC1CC2)C(=O)C=2C=NC(=CC2)N | C17H24N4O3
product | 3-{6-[7-(3-tert-Butyl-phenyl)-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino]-pyridine-3-carbonyl}-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 116 mg, 60% yield | C(C)(C)(C)OC(=O)N1C2CN(CC1CC2)C(=O)C=2C=NC(=CC2)NC=2N=CC1=C(N2)N(C(=C1)C(N(C)C)=O)C1=CC(=CC=C1)C(C)(C)C | C36H44N8O4
